US07531554B2
2-Chloro-4-hydroxybenzoic acid (5.18 g, 30.02 mmol) was dissolved in trifluoromethanesulfonic acid (25 g) and N-iodosuccinimide (6.75 g, 30.00 mmol) was added by portions at 0° C. After stirring at room temperature for 15 hr, trifluoromethanesulfonic acid (25 g) was further added, and N-iodosuccinimide (2.02 g, 8.98 mmol) was added by portions at 0° C. After stirring at room temperature for 13.5 hr, the reaction mixture was added to ice water (300 ml), and the mixture was stirred for 2 hr. The precipitated solid was collected by filtration, washed with water, and vacuum dried to give a mixture (8:2) (5.76 g) of 2-chloro-4-hydroxy-5-iodobenzoic acid and 2-chloro-3,5-diiodo-4-hydroxybenzoic acid.

reactant | 2-Chloro-4-hydroxybenzoic acid | 30.02 mmol, 5.18 g | ClC1=C(C(=O)O)C=CC(=C1)O | C7H5ClO3
reactant | N-iodosuccinimide | 30.00 mmol, 6.75 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | N-iodosuccinimide | 8.98 mmol, 2.02 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | trifluoromethanesulfonic acid | 25 g | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | trifluoromethanesulfonic acid | 25 g | FC(S(=O)(=O)O)(F)F | CHF3O3S
product | 2-chloro-4-hydroxy-5-iodobenzoic acid | 5.76 g | ClC1=C(C(=O)O)C=C(C(=C1)O)I | C7H4ClIO3
